US05877317
Ethyl 2-(2-hydroxyethyl)cinnamate (CXXX)
Triphenylphosphine (9 mol %, 44.8 g, 171 mmol) and palladium acetate (4 mole %, 17.0 g, 76 mmol) are weighed out in open air and added to 2-bromophenethanol (CXXIX, EXAMPLE 111, 383 g, 1.9 moles). The reaction flask is flushed thoroughly with nitrogen, after which the reaction flask was kept under mineral oil bubbler positive nitrogen pressure. DMF (1 ml/6 mmol substrate, 316 ml) is added, followed by triethylamine (1.1 eq., 290.7 ml, 2.1 moles) and ethyl acrylate (1.1 eq., 283 ml, 2.1 moles), all via syringe. The well wrapped reaction flask is heated on a steam bath. An initial vigorous reflux slowly subsides as the reaction progresses, mirroring a gradual increase in solution temperature from <100° to 110°. After 4 hr, the reaction is complete as measured by HPLC. The mixture is allowed to cool and stir overnight. After cooling the mixture crystallized in appearance. Methyl-t-butyl ether (MTB, 400 ml) is added with stirring, followed by hexane (600 ml) and diatomaceous earth (100 g). The slurry is filtered through a sintered glass funnel and the solids are washed with MTB/hexane (1/2). After solvent removal under reduced pressure, this product which possessed only very small amounts of impurities in the aromatic region of the proton NMR is combined with a separate 497 mmol run and dissolved in MTB (1.5 liters) and washed with aqueous hydrochloric acid (1N, 800 ml), water (2×800 ml), saturated aqueous sodium bicarbonate and saline. Drying over anhydrous sodium sulfate (30 min) followed by filtration directly through 200 mesh silica gel (800 g) using a sintered glass funnel, washing the silica gel with additional MTB until TLC shows no more product. Toluene (100 ml) is added to azetrope and remaining water and the solvents removed under reduced pressure. An analytical sample is more carefully filtered through silica gel to give the title compound, NMR (300 MHz, CDCl3) 8.0, 7.59, 7.31, 6.38, 4.27, 3.83, 3.04, 1.34; IR (thin film) 3417, 1712, 1632, 1316, 1179 cm-1 ; high resolution MS calculated for 220.1099, found 220.1105.

reactant | Triphenylphosphine | 171 mmol, 44.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DMF | 6 mmol, 1 ml | CN(C)C=O | C3H7NO
reactant | triethylamine | 2.1 moles, 290.7 ml, 1.1 eq. | C(C)N(CC)CC | C6H15N
reactant | ethyl acrylate | 2.1 moles, 283 ml, 1.1 eq. | C(C=C)(=O)OCC | C5H8O2
catalyst | palladium acetate | 76 mmol, 17.0 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Ethyl 2-(2-hydroxyethyl)cinnamate | OCCC1=C(C=CC(=O)OCC)C=CC=C1 | C13H16O3
